* Subcircuit 74HC4066
.subckt 74HC4066 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ gnd net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ gnd 
.title kicad schematic
.include 4066.sub
x2 net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad3_ 4066
x4 net-_u1-pad12_ net-_u1-pad11_ net-_u1-pad10_ 4066
x3 net-_u1-pad6_ net-_u1-pad8_ net-_u1-pad9_ 4066
x1 net-_u1-pad13_ net-_u1-pad1_ net-_u1-pad2_ 4066
* Control Statements

.ends 74HC4066