.title kicad schematic

.include 74HC4066.sub
* u2 e net-_u2-pad2_ adc_bridge_1
v_y1 y gnd  dc 5
v_e1 e gnd  dc 5
* u1 e plot_v1
r1 gnd z 20k
* u4 z plot_v1
v1 net-_x1-pad14_ gnd 5
x1 unconnected-_x1-pad1_ unconnected-_x1-pad2_ z y net-_u2-pad2_ unconnected-_x1-pad6_ gnd unconnected-_x1-pad8_ unconnected-_x1-pad9_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ net-_x1-pad14_ 74HC4066
* u3 y plot_v1
a1 [e ] [net-_u2-pad2_ ] u2
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 20e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(e)
plot v(z)
plot v(y)
.endc
.end
